US07378415B2
4-Methoxyphenyl disulfide (9.014 g, 32.37 mmol) was dissolved in 15 mL of dry tetrahydrofuran (THF) under nitrogen, and the reaction mixture was cooled to 0° C. Phenylmagnesium bromide (16.18 mL, 3.0M in THF) was added dropwise to the reaction mixture via syringe over 15 minutes, after which the reaction mixture was warmed to room temperature. The reaction mixture was washed with 50 mL Et2O, and the combined organic layer was washed three times with 50 mL water, once with 50 mL saturated NH4Cl, and twice with 50 mL of 2N NaOH. The organic layer was dried (Na2SO4), concentrated in vacuo, and the residue was purified by flash chromatography (0 to 3% ethyl acetate in hexanes) to yield 5.506 g (25.45 mmol, 79%) of 1-methoxy-4-phenylsulfanyl-benzene as a clear oil. MS: 217 (M+H)+.

reactant | 4-Methoxyphenyl disulfide | 32.37 mmol, 9.014 g | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
reactant | Phenylmagnesium bromide | 3.0M, 16.18 mL | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-methoxy-4-phenylsulfanyl-benzene | 25.45 mmol, 5.506 g, 79% | COC1=CC=C(C=C1)SC1=CC=CC=C1 | C13H12OS
